Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.3213570530300025
[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.70581787615
[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.46427581332
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],2.77379510321
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],1.1860636086399998
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4],2.45933879571
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.88581871967
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.49671395953
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-6.989761275939999
[C:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7].[H:8],2.04152983721
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-1.82258992947
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:6],1.70763271276
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])([H:11])[H:12].[H:7],4.90623718493
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-2.88993953161
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.8829619858
[C:3][O:4][H:5].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][H:5],-8.70779371
[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.54114379632
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12]>>[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12].[H:1],3.85468285557
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:10]([H:11])([H:12])[H:13].[C:7]([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.1190754172
[H:1][C:2][C:12]([C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-6.0758545699300015
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1],6.322810393790001
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7],-7.074790007789999
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.48253491
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.90130618
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-8.6198184576
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:3],4.96301978691
[H:10].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.2985177869
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],1.1502265577200002
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.09007155142
